data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1215,1324,[CH3:13][NH:14][C:15](=[O:16])[c-:17]1[o+:18][c:19]([C:20]([CH3:21])=[O:22])[o:23][c:24]1=[O:25].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:19]1([C:20]([CH3:21])=[O:22])[O:18][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[C:24](=[O:25])[O:23]1,water,298.15,17.693701755525293,-18.723193320824063
2601,2883,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[CH2:25][CH2:26][CH2:27][CH2:28]1.[CH3:29][O:30][C:31](=[O:32])[N-:33][N+:34]#[C:35][C:36]#[N:37]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[c:10]2[c:11]([n:33]([C:31]([O:30][CH3:29])=[O:32])[n:34][c:35]2[C:36]#[N:37])[C:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[CH2:25][CH2:26][CH2:27][CH2:28]1,water,298.15,11.754972274540384,-76.17882546428407
2827,3142,[CH3:23][O:24][C:25](=[O:26])[C-:27]([N+:28]#[C:29][c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)[c:36]1[cH:37][cH:38][cH:39][cH:40][cH:41]1.[N:1]#[C:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]#[C:9][C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1>>[N:1]#[C:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]2=[C:9]([C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:29]([c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)=[N:28][C:27]2([C:25]([O:24][CH3:23])=[O:26])[c:36]1[cH:37][cH:38][cH:39][cH:40][cH:41]1,water,298.15,17.819779087530254,-37.6055489377919
348,378,[CH3:10][NH:11][C:12](=[O:13])[CH:14]=[NH+:15][C-:16]([CH3:17])[CH3:18].[CH3:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:16]([CH3:17])([CH3:18])[NH:15][CH:14]2[C:12]([NH:11][CH3:10])=[O:13],water,298.15,22.41910758025487,-23.17822828632337
4213,4819,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[o+:15][c:16]([C:17]([CH3:18])=[O:19])[o:20][c:21]1=[O:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:16]2([C:17]([CH3:18])=[O:19])[O:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:21](=[O:22])[O:20]2,water,298.15,7.937006041756773,-18.07403735763976
2878,3197,[Br:1][C:2]1([Br:3])[C:4]#[C:5][C:6]([Br:7])([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[CH2:14][CH2:15][CH2:16][CH2:17]1.[CH3:18][NH:19][C:20](=[O:21])[C-:22]([NH+:23]=[C:24]([C:25]#[N:26])[C:27](=[O:28])[O:29][CH3:30])[C:31](=[O:32])[NH:33][CH3:34]>>[Br:1][C:2]1([Br:3])[C:4]2=[C:5]([C:6]([Br:7])([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:22]([C:20]([NH:19][CH3:18])=[O:21])([C:31](=[O:32])[NH:33][CH3:34])[NH:23][C:24]2([C:25]#[N:26])[C:27](=[O:28])[O:29][CH3:30],water,298.15,25.638919902380835,-26.20228079958675
162,179,[CH3:11][C:12]#[N+:13][N-:14][C:15](=[O:16])[NH:17][CH3:18].[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([F:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:12]([CH3:11])=[N:13][N:14]2[C:15](=[O:16])[NH:17][CH3:18],water,298.15,16.857442273623462,-48.54974293784847
3457,3937,[CH2-:9][O+:10]=[C:11]([C:12]([CH3:13])=[O:14])[C:15](=[O:16])[O:17][CH3:18].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH2:9][O:10][C:11]1([C:12]([CH3:13])=[O:14])[C:15](=[O:16])[O:17][CH3:18],water,298.15,6.19668235817996,-52.74026479973143
3264,3689,[CH2:1]=[CH2:2].[CH3:3][C:4](=[O:5])[C-:6]([O+:7]=[C:8]([CH3:9])[C:10]#[N:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH2:1]1[CH2:2][C:6]([C:4]([CH3:3])=[O:5])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[O:7][C:8]1([CH3:9])[C:10]#[N:11],water,298.15,7.661957111345355,-58.37501142187994
4983,5670,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[CH:15]=[N+:16]([CH3:17])[C-:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:15]([C:13]([O:12][CH3:11])=[O:14])[N:16]([CH3:17])[C:18]2([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,30.16026574145641,-18.523969192353565
3676,4196,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[NH-:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15]#[N:16])[N:17]([CH3:18])[NH:19]1,water,298.15,30.01940982187931,-5.5363468034368895
